US06596751B2
t-Butyl N-(2-amino-5-hydroxyphenyl)-N-methylcarbamate
A mixture of t-butyl N-(5-benzyloxy-2-nitrophenyl)-N-methylcarbamate (15 g), palladium on carbon (3 g, 10%), toluene (150 ml) and methanol (150 ml) was stirred under a hydrogen atmosphere at room temperature for 12.5 hours. The palladium on carbon was filtered and the filtrate was concentrated to afford the title compound (12.3 g, brown oil, Rf=0.15: thin layer chromatography on a silica gel plate using hexane: ethyl acetate=4 : 1 as the eluant).

reactant | t-butyl N-(5-benzyloxy-2-nitrophenyl)-N-methylcarbamate | 15 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C19H22N2O5
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium on carbon | 3 g | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
product | t-Butyl N-(2-amino-5-hydroxyphenyl)-N-methylcarbamate | NC1=C(C=C(C=C1)O)N(C(OC(C)(C)C)=O)C | C12H18N2O3
